US04360466
4'-[N-[3,5-Dichloro-4-(dimethylaminomethyleneamino)-phenyl]formimidoyl]acetanilide
A mixture of 3.5 g. of 2,6-dichloro-1,4-phenylenediamine and 3.3 g. of p-acetamidobenzaldehyde in 50 ml. of ethanol is refluxed for 21/2 hours. The reaction mixture is allowed to stand at room temperature for 16 hours, then evaporated in vacuo to give a solid. The solid in 25 ml. of N,N-dimethylformamide dimethylacetal is refluxed for 18 hours. The solvent is evaporated to provide a syrup which is dissolved in ethanol and n-hexane. The addition of more ethanol provides crystals. The crude product is collected, dissolved in 50 ml. of hot ethanol and filtered through diatomaceous earth. The filter is washed with ethanol and n-hexane is added to the filtrate until turbid. The clear liquid is decanted and evaporated in vacuo to give hard, yellow-orange crystals. The material is recrystallized from ethyl acetate/hexane to give 830 mg. of the product of the Example as bright yellow crystals, m.p. 171°-173° C.

reactant | 2,6-dichloro-1,4-phenylenediamine | ClC1=C(C(=CC(=C1)N)Cl)N | C6H6Cl2N2
reactant | p-acetamidobenzaldehyde | C(C)(=O)NC1=CC=C(C=O)C=C1 | C9H9NO2
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
solvent | ethanol | C(C)O | C2H6O
solvent | n-hexane | CCCCCC | C6H14
product | 4'-[N-[3,5-Dichloro-4-(dimethylaminomethyleneamino)-phenyl]formimidoyl]acetanilide | ClC=1C=C(C=C(C1N=CN(C)C)Cl)N=CC1=CC=C(NC(C)=O)C=C1 | C18H18Cl2N4O
